US05434151
trans-2-(3-Methoxy-4-propoxy-5-benzylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene (Compound 7, FIG. 4)
trans-2-(3-Methoxy-4-propoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene (10 mg, 0.023 mmole) and potassium carbonate (0.2 g) were suspended in 1 mL DMF. To this mixture was added benzyl bromide (39.50 mg, 0.23 mmole). The mixture was stirred at room temperature for 20 hours, quenched with water, and then extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and evaporated in vacuo to an oil that was purified by column chromatography using hexane/ethyl acetate (3:1) as solvent.

reactant | trans-2-(3-Methoxy-4-propoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene | 0.023 mmole, 10 mg | COC=1C=C(C=C(C1OCCC)N)[C@@H]1S[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H31NO5S
reactant | potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.23 mmole, 39.50 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | trans-2-(3-Methoxy-4-propoxy-5-benzylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrothiophene | COC=1C=C(C=C(C1OCCC)NCC1=CC=CC=C1)[C@@H]1S[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C30H37NO5S
